US04377695
8-[3-(4-Methylbenzyl)-2-oxo-benzimidazolin-1-yl]-caprylic acid methyl ester
The product is produced as described in example 1 from 0.72 g of NaH (80% suspension in mineral oil), 7 g. of 8-(2-oxo-benzimidazolin-1-yl)-caprylic acid methyl ester, 100 cc. of DMF, 3.4 g. of 4-methylbenzylchloride and 0.72 g. of NaJ. Eluant for chromatographic purification: hexane/ethylacetate.

reactant | NaH | 0.72 g | [H-].[Na+]
reactant | 8-(2-oxo-benzimidazolin-1-yl)-caprylic acid methyl ester | COC(CCCCCCCN1C(NC2=C1C=CC=C2)=O)=O | C16H22N2O3
reactant | 4-methylbenzylchloride | CC1=CC=C(CCl)C=C1 | C8H9Cl
solvent | DMF | CN(C)C=O | C3H7NO
product | 8-[3-(4-Methylbenzyl)-2-oxo-benzimidazolin-1-yl]-caprylic acid methyl ester | COC(CCCCCCCN1C(N(C2=C1C=CC=C2)CC2=CC=C(C=C2)C)=O)=O | C24H30N2O3
